US07964608B2
1-Cyclopentyl-3-(2,4-dimethoxy-phenyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (25 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.10 mmol) and 2,4-dimethoxyphenyl isocyanate (0.4 mmol) following general procedure C. LCMS: m/z 448 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.10 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 2,4-dimethoxyphenyl isocyanate | 0.4 mmol | COC1=C(C=CC(=C1)OC)N=C=O | C9H9NO3
product | 1-Cyclopentyl-3-(2,4-dimethoxy-phenyl)-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 25 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=C(C=C(C=C2)OC)OC)=O | C25H25N3O5
